US04200758
Following the above procedure, 3-(4-methylphenyl)-4-isopropyloxazolidine-2,5-dione is reacted with (2,4-dioxo-1-propargyl-3-imidazolidinyl)methanol to give (2,4-dioxo-1-propargyl-3-imidazolidinyl)methyl 2-(4-methylphenylamino)-3-methylbutanoate.

reactant | 3-(4-methylphenyl)-4-isopropyloxazolidine-2,5-dione | CC1=CC=C(C=C1)N1C(OC(C1C(C)C)=O)=O | C13H15NO3
reactant | (2,4-dioxo-1-propargyl-3-imidazolidinyl)methanol | O=C1N(CC(N1CO)=O)CC#C | C7H8N2O3
product | (2,4-dioxo-1-propargyl-3-imidazolidinyl)methyl 2-(4-methylphenylamino)-3-methylbutanoate | CC1=CC=C(C=C1)NC(C(=O)OCN1C(N(CC1=O)CC#C)=O)C(C)C | C19H23N3O4
